** sch_path: /opt/pdks/ihp-sg13g2/libs.tech/xschem/sg13g2_tests/ac_lv_nmosrf.sch
**.subckt ac_lv_nmosrf
Vgs net1 GND dc 0.45 ac 0.01
Vds net2 GND 1.2
Vgs1 net4 GND dc 0.45 ac 0.01
Vds2 net5 GND 1.2
XR1 net4 net6 sub! rppd w=0.5e-6 l=0.5e-6 m=1 b=0
XR2 Vout2 net5 sub! rppd w=0.5e-6 l=0.5e-6 m=1 b=0
XR3 net1 net3 sub! rppd w=0.5e-6 l=0.5e-6 m=1 b=0
XR4 Vout1 net2 sub! rppd w=0.5e-6 l=0.5e-6 m=1 b=0
XM1 Vout2 net6 GND GND sg13_lv_nmos w=1.0u l=0.35u ng=1 m=1 rfmode=0
XM2 Vout1 net3 GND GND sg13_lv_nmos w=1.0u l=0.35u ng=1 m=1 rfmode=1
**** begin user architecture code

.lib cornerMOSlv.lib mos_tt
.lib cornerRES.lib res_typ



.param temp=27
.control
save all
ac dec 1001 10meg 10000meg
let vd1 = abs(Vout1)
let vd2 = abs(Vout2)
meas ac Vout_1_5GHz find vd1 at=5000meg
meas ac Vout_2_5GHz find vd2 at=5000meg
write ac_lv_nmosrf.raw
.endc


**** end user architecture code
**.ends
.GLOBAL GND
.end
